US07205294B2
1H-indazole-5-carbaldehyde
2.60 g (65.00 mmol) sodium hydride (60% in mineral oil) was added batchwise to a solution of 11.64 g (59.08 mmol) 5-bromo-1H-indazole in 150 mL THF under argon within 10 minutes and the mixture was stirred for 15 minutes at RT. The reaction mixture was cooled to −70° C. and within 30 minutes 100.00 mL (130.00 mmol) sec-butyllithium (1.3 M in cyclohexane) were added dropwise, while the temperature was kept below −60° C. The mixture was stirred for a further 2 h at −70° C. and then a solution of 20.00 mL (0.260 mol) DMF in 20 mL THF was added dropwise, while the temperature was kept below −50° C. The reaction mixture was slowly heated to RT and stirred for 16 h. Then the mixture was slowly cooled to 0° C. and slowly 180 mL of 2N aqueous HCl was added dropwise, the mixture was stirred for a further 15 minutes and the pH was adjusted to 9–10 with sat. aqueous sodium bicarbonate solution. The aqueous phase was exhaustively extracted with EtOAc, the combined org. phases were dried over magnesium sulphate and evaporated down i. vac. Column chromatography (silica gel, petroleum ether/EtOAc 1:1 v/v), trituration with hexane and drying i. vac. at 50° C. yielded the product.

reactant | sodium hydride | 65.00 mmol, 2.60 g | [H-].[Na+]
reactant | 5-bromo-1H-indazole | 59.08 mmol, 11.64 g | BrC=1C=C2C=NNC2=CC1 | C7H5BrN2
reactant | sec-butyllithium | 130.00 mmol, 1.3 M, 100.00 mL | C(C)(CC)[Li]
reactant | DMF | 0.260 mol, 20.00 mL | CN(C)C=O | C3H7NO
reactant | HCl | 2N, 180 mL | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 1H-indazole-5-carbaldehyde | N1N=CC2=CC(=CC=C12)C=O | C8H6N2O
